US07872023B2
A 2.0 M solution of oxalyl chloride (3.57 mL, 7.14 mmol) in CH2Cl2 was added under N2 to a solution of 7-methoxy-isothiochroman-3-carboxylic acid (0.80 g, 3.57 mmol) and a drop of DMF in CH2Cl2 (100 mL). The solution was allowed to stir at room temperature for 3 h and was concentrated under reduced pressure to provide 7-methoxy-isothiochroman-3-carbonyl chloride as a tan oil. The acid halide was used in the next step without further purification.

reactant | oxalyl chloride | 7.14 mmol, 3.57 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-methoxy-isothiochroman-3-carboxylic acid | 3.57 mmol, 0.80 g | COC1=CC=C2CC(SCC2=C1)C(=O)O | C11H12O3S
reactant | DMF | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 7-methoxy-isothiochroman-3-carbonyl chloride | COC1=CC=C2CC(SCC2=C1)C(=O)Cl | C11H11ClO2S
